US05420128
7-Hydroxy-6-(2-hydroxyethyl)-3-(4-phenylthiophenyl)pyrazolo[1,5-a]pyrimidine
To a methanol suspension of 180 mg of 6-(2-acetoxyethyl)-7-hydroxy-3-(4-phenylthiophenyl)pyrazolo[1,5-a]pyrimidine, 2 ml of 2N sodium hydroxide was added, and stirred for 21 hours at room temperature. Turning acidic with 10% hydrochloric acid, the precipitate was filtered, washed with-water, dried, and the title compound was obtained (150 mg, 93%).

reactant | 6-(2-acetoxyethyl)-7-hydroxy-3-(4-phenylthiophenyl)pyrazolo[1,5-a]pyrimidine | 180 mg | C(C)(=O)OCCC=1C=NC=2N(C1O)N=CC2C2=CC=C(C=C2)SC2=CC=CC=C2 | C22H19N3O3S
reactant | sodium hydroxide | 2N, 2 ml | [OH-].[Na+]
solvent | methanol | CO | CH4O
product | 7-Hydroxy-6-(2-hydroxyethyl)-3-(4-phenylthiophenyl)pyrazolo[1,5-a]pyrimidine | OC1=C(C=NC=2N1N=CC2C2=CC=C(C=C2)SC2=CC=CC=C2)CCO | C20H17N3O2S
